US08008303B2
2′-Chloro-5′-(cyclohexanecarbonyl-amino)-biphenyl-4-carboxylic acid [4-(4-methyl-piperazin-1-ylmethyl)-phenyl]-amide
A mixture of 2′-Chloro-5′-(cyclohexanecarbonyl-amino)-biphenyl-4-carboxylic acid (103 mg), 4-(4-methyl-piperazin-1-ylmethyl)-phenylamine (59 mg) and HBTU (148 mg) in dry DMF (10 ml) containing triethylamine (362 μl) was stirred at room temp for 18 h. Most of the DMF was evaporated and the residue diluted with water. The resulting solid was collected by filtration. This material was then purified by reverse phase Prep HPLC giving the title compound as a yellow solid (51 mg)

reactant | 2′-Chloro-5′-(cyclohexanecarbonyl-amino)-biphenyl-4-carboxylic acid | 103 mg | ClC1=C(C=C(C=C1)NC(=O)C1CCCCC1)C1=CC=C(C=C1)C(=O)O | C20H20ClNO3
reactant | 4-(4-methyl-piperazin-1-ylmethyl)-phenylamine | 59 mg | CN1CCN(CC1)CC1=CC=C(C=C1)N | C12H19N3
reactant | HBTU | 148 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=C2)N=N1.F[P-](F)(F)(F)(F)F
reactant | triethylamine | 362 μl | C(C)N(CC)CC | C6H15N
solvent | DMF | 10 ml | CN(C)C=O | C3H7NO
product | 2′-Chloro-5′-(cyclohexanecarbonyl-amino)-biphenyl-4-carboxylic acid [4-(4-methyl-piperazin-1-ylmethyl)-phenyl]-amide | 51 mg | CN1CCN(CC1)CC1=CC=C(C=C1)NC(=O)C1=CC=C(C=C1)C1=C(C=CC(=C1)NC(=O)C1CCCCC1)Cl | C32H37ClN4O2
